US07569583B2
4-(Cyclopentanecarbonylamino)benzoic acid
4-Aminobenzoic acid ethyl ester was reacted by method E with cyclopentanecarboxylic acid, and the resulting ester was hydrolyzed by boiling with sodium hydroxide in aqueous ethanol. The product with the molecular weight of 233.27 (C13H15NO3); MS (ESI): 234 (M+H+) was obtained in this way.

reactant | 4-Aminobenzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | cyclopentanecarboxylic acid | C1(CCCC1)C(=O)O | C6H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(Cyclopentanecarbonylamino)benzoic acid | C1(CCCC1)C(=O)NC1=CC=C(C(=O)O)C=C1 | C13H15NO3
